US07176227B2
Synthesis of 4-{[bis(1-methyl-1H-imidazol-2-ylmethyl)amino]methyl}-benzoic acid
Commercially available amino methylbenzoic acid methyl ester (manufactured by Tokyo Kasei Kogyo Co., Ltd.) (278 mg) was dissolved in methanol (9 ml). Then, the solution was added with 1-methyl-2-imidazole carboxaldehyde (manufactured by Aldrich Corporation) (407 mg) and sodium cyanoborohydride (317 mg), and then adjusted to about pH 5 with acetic acid, followed by stirring at room temperature for 3 days. After completion of the reaction, the solvent was distilled off and the residue was then dissolved in chloroform, followed by washing with a 1 mol/l sodium hydroxide solution. The solution was dried with anhydrous sodium sulfate, and the solvent was distilled off. Subsequently, the residue was dissolved in methanol (6.0 ml) and then added with 1 mol/l sodium hydroxide, followed by stirring at room temperature for 6 hours. After completion of the reaction, 1 mol/l hydrochloric acid (6.0 ml) was added and the solvent was distilled off. After that, ethanol was added to remove insoluble matter, the solvent was distilled off, and the residue was then dried, thereby obtaining the subject compound (519 mg) as a pale-yellow foamy substance.

reactant | amino methylbenzoic acid methyl ester | 278 mg | COC(C1=C(C=CC=C1)CN)=O | C9H11NO2
reactant | 1-methyl-2-imidazole carboxaldehyde | 407 mg | CN1C(=NC=C1)C=O | C5H6N2O
reactant | sodium cyanoborohydride | 317 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 9 ml | CO | CH4O
product | 4-{[bis(1-methyl-1H-imidazol-2-ylmethyl)amino]methyl}-benzoic acid | 519 mg | CN1C(=NC=C1)CN(CC=1N(C=CN1)C)CC1=CC=C(C(=O)O)C=C1 | C18H21N5O2
